US08034812B2
Production of N-[3-({2-[(cyclobutylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide
To a solution of N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (150 mg, 0.362 mmol) in tetrahydrofuran (5 mL) were added dropwise triethylamine (75 μL, 0.544 mmol) and cyclobutanecarbonyl chloride (50 μL, 0.435 mmol), and the mixture was stirred at room temperature for 16 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) to give the title compound (98 mg, 54%) as a white powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 0.362 mmol, 150 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
reactant | triethylamine | 0.544 mmol, 75 μL | C(C)N(CC)CC | C6H15N
reactant | cyclobutanecarbonyl chloride | 0.435 mmol, 50 μL | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(cyclobutylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide | 98 mg, 54% | C1(CCC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C25H20F3N5O3
